US07572809B2
(1-Cyclopropyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
To a mixture of (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (0.2887 g 1 mmol), cyclopropyl boronic acid (0.1718 g, 2 mmol), PdCl2 (0.0177 g, 10% mmol), and K3PO4 (0.5307 g, 2.5 mmol) under Argon was added Dioxane/H2O=10:1(1 ml) and P(tBu)3 (20% mmol). The mixture was heated to 130° C. and stirred overnight. The product was purified by preparative HPLC to give 2.5 mg of solid. LC-MS: m/e 295 (MH+).

reactant | (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 1 mmol, 0.2887 g | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | cyclopropyl boronic acid | 2 mmol, 0.1718 g | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 2.5 mmol, 0.5307 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | P(tBu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | PdCl2 | 0.0177 g | Cl[Pd]Cl
solvent | Dioxane H2O | O1CCOCC1.O
product | (1-Cyclopropyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 2.5 mg | C1(CC1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C17H18N4O
